US08703767B2
As an example, N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide be prepared according to Route III. Beginning with 4-(3-aminophenyl)-N-(4-(4-methylpiperazin-1-yl)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-6-amine, acylation with acryloyl chloride provides N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide. Deprotection under mild acidic conditions yields N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide.

reactant | N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)NN=C2)C=2C=C(C=CC2)NC(C=C)=O | C25H26N8O
reactant | 4-(3-aminophenyl)-N-(4-(4-methylpiperazin-1-yl)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-6-amine | NC=1C=C(C=CC1)C1=C2C(=NC(=N1)NC1=CC=C(C=C1)N1CCN(CC1)C)N(N=C2)C2OCCCC2 | C27H32N8O
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C30H34N8O2
